datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCC1>>COC1=CC=C([CH:20]([CH:10]2CCC[C:11]2=[O+:12][Si:63](C)(C)C)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([P:10](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>N#C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([P+:10](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[C:63]([NH+:12]=[C:11]1CCC[CH:10]1[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)=[O:64] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>CN(C)C1=CC=C([CH:20]([P+:10](C2=CC=CC=C2)(C(C)(C)C)C(C)(C)C)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10=20;20,21=21,22;22,23=23"
"CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[C:11]1=[O+:12]C(C)C(C)[O:62]1.C[C:20](C)([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12"
"CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH2:10][CH+:11][C:62]13C4([Si](C)(C)C)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20"
"CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[N:10]1=[CH:11][NH:12][CH:62]=[CH:61]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[NH+:12][CH:62]=[CH:61]2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>COC1=CC=[N+](C[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1.C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([CH-:10][P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62].C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:72][C:61]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1CCCC1C(O[Si](C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N+:12]2=[CH:11][CH2:10][C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20;12=11,12"
"C[N:16](C)[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>C[N+:16](C)=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.Cl[C:20]1([H:10])[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
